US05061706
To 75 ml ice-cooled 100% nitric acid was added gradually 7.25 g (25.3 mmol) 2-cyano-5-ethoxalylaminobenzotrifluoride. Stirring was continued at 25° C. for 3 h. The reaction mixture was poured into 500 ml ice-water to give a crude product. Recrystallization (ethanol-water) gave 5.1 g (61%) 2-cyano-5-ethoxalylamino-4-nitrobenzotrifluoride. M.p. 101°-102° C.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 2-cyano-5-ethoxalylaminobenzotrifluoride | 25.3 mmol, 7.25 g | C(#N)C1=C(C=C(C=C1)NC(=O)C(=O)OCC)C(F)(F)F | C12H9F3N2O3
product | 2-cyano-5-ethoxalylamino-4-nitrobenzotrifluoride | 5.1 g, 61% | C(#N)C1=C(C=C(C(=C1)[N+](=O)[O-])NC(=O)C(=O)OCC)C(F)(F)F | C12H8F3N3O5
